US04555518
A solution of 15 g of 1,2-bis(difluoromethoxy)benzene and 15 ml of 100% strength nitric acid in 150 ml of methylene chloride is stirred for 7 h at room temperature. The solution is neutralized with potassium bicarbonate solution and the organic phase is separated off. After chromatography on silica gel with cyclohexane/ethyl acetate (4:1), 1,2-bis(difluoromethoxy)-4-nitrobenzene is obtained, which is hydrogenated and acetylated analogously to Example 5a to yield N-[3,4-bis(difluoromethoxy)phenyl]-acetamide of m.p. 81°-83° C. Further reaction analogously to Example 5 gives N-[4,5-bis(difluoromethoxy)-2-nitrophenyl]-acetamide of m.p. 65°-67° C., N-[4,5-bis(difluoromethoxy)-2-nitro]-aniline of m.p. 107°-109° C., 4,5-bis(difluoromethoxy)-1,2-phenylenediamine dihydrochloride and the title compound of m.p. 285°-287° C. (decomposition; from isopropanol).

reactant | 1,2-bis(difluoromethoxy)benzene | 15 g | FC(OC1=C(C=CC=C1)OC(F)F)F | C8H6F4O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1,2-bis(difluoromethoxy)-4-nitrobenzene | FC(OC1=C(C=C(C=C1)[N+](=O)[O-])OC(F)F)F | C8H5F4NO4
